.SUBCKT BSP230 1 2 3
* 1=drain  2=gate  3=source
Cgs  2 3 41.3E-12
Cgd1 2 4 148.7E-12
Cgd2 1 4 5E-12
M1 1 2 3 3 MOST1 W=23e-3 L=2e-6
M2 4 2 1 3 MOST2 W=23e-3 L=2e-6
D1 1 3 Dbody
.MODEL MOST1 PMOS(LEVEL=3 KP=10.31e-6 Rs=20e-3 VTO=-2.4 Rd=13.06)
.MODEL MOST2 PMOS(VTO=3.1 KP=10.31e-6 Rs=20e-3)
.MODEL Dbody D(Is=1.493E-14 N=0.9364 Rs=2 CJO=9.5E-11 VJ=0.9919 M=0.5697
+              TT=865.6E-9 BV=300 IBV=10E-6)
.ENDS